US09388172B2
In a 10 mL round-bottomed flask, (Z)-4,4,4-trifluoro-N′-hydroxy-3-((3-(3-(trifluoromethyl)phenyl)-piperidin-1-yl)methyl)butanimidamide (120 mg, 302 μmol) and DIEA (117 mg, 158 μl, 906 μmol) were combined with CH2Cl2 (2.00 ml) to give a colorless solution. 4-Fluorobenzoyl chloride (47.9 mg, 302 μmol) in CH2Cl2 (1 ml) was added drop-wise and the resulting mixture was stirred at room temperature overnight. The crude reaction mixture was concentrated in vacuo to afford 120 mg (38%) of (Z)-4-fluoro-N-(4,4,4-trifluoro-1-(hydroxyimino)-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butyl)benzamide and used as is. MH+=520.

reactant | (Z)-4,4,4-trifluoro-N′-hydroxy-3-((3-(3-(trifluoromethyl)phenyl)-piperidin-1-yl)methyl)butanimidamide | 302 μmol, 120 mg | FC(C(C/C(/N)=N/O)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H21F6N3O
reactant | DIEA | 906 μmol, 158 μl, 117 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-Fluorobenzoyl chloride | 302 μmol, 47.9 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.00 ml | C(Cl)Cl | CH2Cl2
product | (Z)-4-fluoro-N-(4,4,4-trifluoro-1-(hydroxyimino)-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butyl)benzamide | 120 mg, 38% | FC1=CC=C(C(=O)N\C(\CC(C(F)(F)F)CN2CC(CCC2)C2=CC(=CC=C2)C(F)(F)F)=N/O)C=C1 | C24H24F7N3O2
